US08791107B2
PREPARATION x55: 2-chloro-5-(tetrahydro-2H-pyran-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
To a 5 mL microwave vial were added 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)morpholine-3-carboxamide (PREPARATION x54, 320 mg, 0.789 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (34.2 mg, 0.059 mmol), palladium(II)acetate (8.85 mg, 0.039 mmol), and potassium phosphate, tribasic (234 mg, 1.104 mmol). The vessel was sealed, evacuated, and refilled with nitrogen. To the vessel were added dioxane (2 mL) and tert-butanol (0.500 mL), and the mixture was heated in a microwave to 120° C. for 6 hours. The reaction mixture was subsequently partitioned between saturated brine and ethyl acetate. The aqueous layer was extracted with ethyl acetate and the combined organic layers were dried over MgSO4, filtered, and concentrated. The crude product was purified by normal phase column chromatography (SiO2, 50-100% EtOAc gradient in hexanes over 20 minutes) to give the title compound (195 mg, 76%).

reactant | 4-(5-bromo-2-chloropyrimidin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)morpholine-3-carboxamide | 0.789 mmol, 320 mg | BrC=1C(=NC(=NC1)Cl)N1C(COCC1)C(=O)NC1CCOCC1 | C14H18BrClN4O3
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.059 mmol, 34.2 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | palladium(II)acetate | 0.039 mmol, 8.85 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-chloro-5-(tetrahydro-2H-pyran-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 195 mg, 76% | ClC1=NC=2N3C(C(N(C2C=N1)C1CCOCC1)=O)COCC3 | C14H17ClN4O3
